US07884109B2
A solution of (R)-4-(2,4-dimethoxybenzylamino)-3-(4-(6,8-difluorochroman-4-ylamino)-5-nitropyrimidin-2-ylamino)benzonitrile (358 mg) in THF (25 mL) was treated with a solution of sodium hydrosulfite (1.5 g) and sodium bicarbonate (1.5 g) in 20 mL of distilled water. Methanol (5 mL) was added to maintain a homogeneous solution. After 15 minutes, the mixture was diluted with EtOAc (100 mL) and washed with saturated aqueous NaCl (2×100 mL). The organic layer was separated, dried over Na2SO4, filtered, and concentrated in vacuo to provide the intermediate (R)-4-(2,4-dimethoxybenzylamino)-3-(5-amino-4-(6,8-difluorochroman-4-ylamino)pyrimidin-2-ylamino)benzonitrile. The intermediate was dissolved in THF (5 mL) and treated with carbonyldiimidazole (0.55 g) for 16 hours. The mixture was diluted with EtOAc (100 mL) and washed twice with saturated aqueous NaCl (2×100 mL). The organic layer was separated, dried over Na2SO4, filtered, and concentrated in vacuo. Column chromatography (2→3% MeOH/DCM) provided 230 mg of the title compound.

reactant | (R)-4-(2,4-dimethoxybenzylamino)-3-(4-(6,8-difluorochroman-4-ylamino)-5-nitropyrimidin-2-ylamino)benzonitrile | 358 mg | COC1=C(CNC2=C(C=C(C#N)C=C2)NC2=NC=C(C(=N2)N[C@@H]2CCOC3=C(C=C(C=C23)F)F)[N+](=O)[O-])C=CC(=C1)OC | C29H25F2N7O5
reactant | sodium hydrosulfite | 1.5 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 1.5 g | C([O-])(O)=O.[Na+]
reactant | Methanol | 5 mL | CO | CH4O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (R)-4-(2,4-dimethoxybenzylamino)-3-(5-amino-4-(6,8-difluorochroman-4-ylamino)pyrimidin-2-ylamino)benzonitrile | COC1=C(CNC2=C(C=C(C#N)C=C2)NC2=NC=C(C(=N2)N[C@@H]2CCOC3=C(C=C(C=C23)F)F)N)C=CC(=C1)OC | C29H27F2N7O3
